US05167949
c) 2-(Ethoxymethyl)-4(3H)-pteridinone
A solution of 19.1 g (0.11 mole) of sodium dithionite in 88 ml of water is added dropwise to a suspension, maintained at 20° C., of 10.0 g (0.050 mole) of 6-amino-2-(ethoxymethyl)-5-nitroso-4(3H)-pyrimidinone in 50 ml of water. After being stirred for 30 minutes at room temperature, the reaction mixture, still maintained at 20° C., is treated with 47.9 g (0.33 mole) of a 40% aqueous solution of glyoxal. Stirring is continued for 20 hours at room temperature. The solution obtained is then extracted with dichloromethane. These organic extracts are dried over sodium sulphate and concentrated to dryness under reduced pressure. The solid residue is recrystallized from methanol in the presence of Norit. Yld: 6.5 g (63%), m.p. 168°-169° C. The product is identical to that obtained in Example 1.

reactant | sodium dithionite | 0.11 mole, 19.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 6-amino-2-(ethoxymethyl)-5-nitroso-4(3H)-pyrimidinone | 0.050 mole, 10.0 g | NC1=C(C(NC(=N1)COCC)=O)N=O | C7H10N4O3
reactant | glyoxal | C(=O)C=O | C2H2O2
solvent | water | 88 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-(Ethoxymethyl)-4(3H)-pteridinone | C(C)OCC1=NC2=NC=CN=C2C(N1)=O | C9H10N4O2
